US07727992B2
2,3-Diamino-5-(5-methyl-3-oxo-4-pyridin-2-ylmethyl-cyclohexa-1,5-dienyl)-benzoic acid methyl ester:
To a slurry of 10% palladium on carbon (0.045 g) in ethyl acetate (20 mL) was added 2-amino-5-(5-methyl-3-oxo-4-pyridin-2-ylmethyl-cyclohexa-1,5-dienyl)-3-nitro-benzoic acid methyl ester (0.176 g, 0.44 mmol). The resulting mixture was hydrogenated at 30 psi for 24 hours. The reaction was filtered, concentrated in vacuo, and the crude isolate purified (SiO2, 2 to 10% methanol in methylene chloride) to afford the title compound. 1H NMR (500 MHz, CDCl3) δ 2.5 (s, 3H), 3.99 (s, 3H), 5.3 (s, 2H), 5.38 (bs, 2H), 6.39 (s, 1H), 6.25 (s, 1H), 7.93-7.21 (m, 4H), 8.61 (s, 1H), 8.93 (s, 1H).

reactant | 2-amino-5-(5-methyl-3-oxo-4-pyridin-2-ylmethyl-cyclohexa-1,5-dienyl)-3-nitro-benzoic acid methyl ester | 0.44 mmol, 0.176 g | COC(C1=C(C(=CC(=C1)C1=CC(C(C(=C1)C)CC1=NC=CC=C1)=O)[N+](=O)[O-])N)=O | C21H19N3O5
catalyst | palladium on carbon | 0.045 g | [Pd] | Pd
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2,3-Diamino-5-(5-methyl-3-oxo-4-pyridin-2-ylmethyl-cyclohexa-1,5-dienyl)-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)C1=CC(C(C(=C1)C)CC1=NC=CC=C1)=O)N)N)=O | C21H21N3O3
